US07964608B2
1-Cyclopentyl-7-methoxy-3-(3-nitro-phenyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (19 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-isocyanato-3-nitro-benzene (0.5 mmol) following general procedure C. LCMS: m/z 433 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-isocyanato-3-nitro-benzene | 0.5 mmol | N(=C=O)C1=CC(=CC=C1)[N+](=O)[O-] | C7H4N2O3
product | 1-Cyclopentyl-7-methoxy-3-(3-nitro-phenyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 19 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=CC=C2)[N+](=O)[O-])=O | C23H20N4O5
